US09290451B2
b) 5-Cyclopentyl-6-cyclopropylmethoxy-pyridine-2-carboxylic acid
The mixture of 5-cyclopentenyl-6-(cyclopropylmethoxy)-pyridine-2-carboxylic acid (0.95 g, 4 mmol), Pd/C (10% w/w, 0.2 g) in 30 mL of ethanol in a hydrogen atmosphere was stirred for 4 h at room temperature. The mixture was filtered and the filtrate was evaporated to dryness to obtain the product (0.76 g, 79%) as white solid. The product was directly used for the next step; MS (LC/MS): 262.1 [M+H]+.

reactant | 5-cyclopentenyl-6-(cyclopropylmethoxy)-pyridine-2-carboxylic acid | 4 mmol, 0.95 g | C1(=CCCC1)C=1C=CC(=NC1OCC1CC1)C(=O)O | C15H17NO3
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 30 mL | C(C)O | C2H6O
catalyst | Pd/C | 0.2 g | [Pd] | Pd
product | 5-Cyclopentyl-6-cyclopropylmethoxy-pyridine-2-carboxylic acid | 0.76 g, 79% | C1(CCCC1)C=1C=CC(=NC1OCC1CC1)C(=O)O | C15H19NO3
